US05157160
5-(1,3-Oxazol-2-yl)-1-azabicyclo[3.1.1]heptane oxalate salt (E4)
A well stirred mixture of 1-azabicyclo[3.1.1]hept-5-ylcarboxamide (D12, 640 mg, 0.0046 mole) and vinylene carbonate (600 mg, 0.0069 mole) in polyphosphoric acid (25 g) was heated at 120° C. for 1 h. The hot solution was then poured cautiously, with good stirring, into excess potassium carbonate solution. The aqueous mixture was saturated with potassium carbonate and extracted with ethyl acetate (1×100 ml), followed by chloroform (1×100 ml). The combined extracts were dried (Na2SO4) and concentrated in vacuo at room temperature. The residue was immediately chromatographed on basic alumina eluting initially with ethyl acetate, increasing to 15% methanol/ethyl acetate to give a colourless oil (60 mg). This was converted to its oxalate salt and recrystallised from methanol/ether to give the title compound (E4) as a white solid (65 mg, 6%) m.p. 165°-166° C.

reactant | 1-azabicyclo[3.1.1]hept-5-ylcarboxamide | 0.0046 mole, 640 mg | N12CCCC(C1)(C2)C(=O)N | C7H12N2O
reactant | vinylene carbonate | 0.0069 mole, 600 mg | C1(OC=CO1)=O | C3H2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-(1,3-Oxazol-2-yl)-1-azabicyclo[3.1.1]heptane oxalate salt | 60 mg | C(C(=O)O)(=O)O.O1C(=NC=C1)C12CCCN(C1)C2 | InChI=1S/C9H12N2O.C2H2O4/c1-2-9(6-11(4-1)7-9)8-10-3-5-12-8;3-1(4)2(5)6/h3,5H,1-2,4,6-7H2;(H,3,4)(H,5,6)
